US08247403B2
(1) tert-butyl 8-(piperidin-1-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A solution of tert-butyl 8-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (300 mg, 0.915 mmol), piperidine (0.297 ml, 3.00 mmol), X-phos (26.1 mg, 0.0546 mmol), tris(dibenzylideneacetone)dipalladium(0) (16.6 mg, 0.00187 mmol) and sodium tert-butoxide (131 mg, 1.37 mmol) in dioxane (6 ml) was stirred under an argon atmosphere for 1 hr at 80° C. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by NH silica gel column chromatography (hexane:ethyl acetate=2:1) to give the desired product (280 mg, 92.1%) as an oil.

reactant | tert-butyl 8-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.915 mmol, 300 mg | BrC1=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C=C1 | C14H18BrNO3
reactant | piperidine | 3.00 mmol, 0.297 ml | N1CCCCC1 | C5H11N
reactant | sodium tert-butoxide | 1.37 mmol, 131 mg | CC(C)([O-])C.[Na+]
reactant | water | O | H2O
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.00187 mmol, 16.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | X-phos | 0.0546 mmol, 26.1 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
product | tert-butyl 8-(piperidin-1-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 280 mg, 92.1% | N1(CCCCC1)C1=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C=C1 | C19H28N2O3
